US06054457
A solution of 3-methoxy-4-nitro-N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-N-methylbenzamide (7.6 g) in ethanol (76 ml) was treated with 1 N sodium hydroxide solution (33 ml) at ambient temperature and the mixture was stirred at the same temperature for 6 hours. The reaction was quenched by the dropwise addition of 1 N hydrochloric acid (35 ml). The mixture was concentrated and the residue was dissolved in a mixture of ethyl acetate and 1 N hydrochloric acid. The extracted organic layer was washed with brine and dried over magnesium sulfate. The suspension was filtered and the solvent was removed by evaporation to give 3-methoxy-4-nitro-N-[2-(5-carboxypent-1-yloxy)-4-methylphenyl]-N-methylbenzamide (7.1 g) as an oil.

reactant | 3-methoxy-4-nitro-N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-N-methylbenzamide | 7.6 g | COC=1C=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCCCCCC(=O)OCC)C=CC1[N+](=O)[O-] | C24H30N2O7
reactant | sodium hydroxide | 1 N, 33 ml | [OH-].[Na+]
solvent | ethanol | 76 ml | C(C)O | C2H6O
product | 3-methoxy-4-nitro-N-[2-(5-carboxypent-1-yloxy)-4-methylphenyl]-N-methylbenzamide | 7.1 g | COC=1C=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCCCCCC(=O)O)C=CC1[N+](=O)[O-] | C22H26N2O7
